US07763639B2
3-{4-[2-FLUORO-3-(TRIFLUOROMETHYL)PHENYL]PIPERIDIN-1-YL}PROPAN-1-OL
Preparation according to Example 1: 4-[2-fluoro-3-(trifluoromethyl)phenyl]piperidine (0.45 g, 1.82 mmol), acetonitrile (20 ml), potassium carbonate (0.6 g, 1.1 mmol) and 3-bromo-1-propanol (0.185 ml, 2.0 mmol). Yield: 0.16 g (29%). The amine was converted to the hydrochloric acid salt and recrystallized from ethanol/diethyl ether: M.p. 259-261° C. MS m/z (relative intensity, 70 eV) 305 (M+, 4), 261 (16), 260 (bp), 217 (5), 177 (9).

reactant | 4-[2-fluoro-3-(trifluoromethyl)phenyl]piperidine | 1.82 mmol, 0.45 g | FC1=C(C=CC=C1C(F)(F)F)C1CCNCC1 | C12H13F4N
reactant | potassium carbonate | 1.1 mmol, 0.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-bromo-1-propanol | 2.0 mmol, 0.185 ml | BrCCCO | C3H7BrO
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 3-{4-[2-FLUORO-3-(TRIFLUOROMETHYL)PHENYL]PIPERIDIN-1-YL}PROPAN-1-OL | FC1=C(C=CC=C1C(F)(F)F)C1CCN(CC1)CCCO | C15H19F4NO
